US05356904
1-{1-[4-(6-Diethylamino-5-hydroxyhexyloxy)benzoyl}-4-piperidinyl}-3,4-dihydrocarbostyril (0.7 g) and methyl isocyanate (0.24 ml) are dissolved in acetonitril (20 ml), and thereto is added trifuroboran ethyl ether complex (0.35 ml) under ice-cooling, and the mixture is stirred at room temperature overnight. The reaction mixture is concentrated and purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1) to give 1-{1-[4-(6-diethylamino-5-methylaminocarbonyloxyhexyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (314 mg) as colorless oil.

reactant | 1-{1-[4-(6-Diethylamino-5-hydroxyhexyloxy)benzoyl}-4-piperidinyl}-3,4-dihydrocarbostyril | 0.7 g | C(C)N(CC(CCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1)O)CC | C31H43N3O4
reactant | methyl isocyanate | 0.24 ml | CN=C=O | C2H3NO
solvent | acetonitril | 20 ml | C(C)#N | C2H3N
product | 1-{1-[4-(6-diethylamino-5-methylaminocarbonyloxyhexyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 314 mg | C(C)N(CC(CCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1)OC(=O)NC)CC | C33H46N4O5
